US05399703
Step 3 2-[2-(Methylamino)phenylthio]benzonitrile
In 20 ml of ethanol was suspended 2.8 g of 2-[2-(N-methyl-N-trifluoroacetylamino)phenylthio]benzonitrile followed by addition of 4 ml of 10% aqueous sodium hydroxide solution, and the mixture was heated on a water bath for 5 minutes. After cooling, the crystals were collected by filtration and washed with 50% aqueous ethanol to give 1.8 g of the title compound as white crystals.

reactant | 2-[2-(N-methyl-N-trifluoroacetylamino)phenylthio]benzonitrile | 2.8 g | CN(C(C(F)(F)F)=O)C1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C16H11F3N2OS
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[2-(Methylamino)phenylthio]benzonitrile | 1.8 g | CNC1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C14H12N2S
